US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.5 mmol), K3PO4 (425 mg, 2.00 mmol), benzylamine (131 μL, 1.20 mmol), 2-iodobenzylalcohol (234 mg, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=4/1, Rƒ=0.3) afforded 2-(N-benzyl)aminobenzylalcohol (203 mg, 95% isolated yield) as off-white solid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity. See Coppola, G. A. J. Herterocyl. Chem. 1986, 23, 223-224.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-iodobenzylalcohol | 1.00 mmol, 234 mg | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.5 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 2-(N-benzyl)aminobenzylalcohol | 203 mg, 95% | C(C1=CC=CC=C1)NC1=C(CO)C=CC=C1 | C14H15NO
